US08609696B2
To a stirred suspension of 4-{[4-(1H-benzimidazol-2-yl)piperidin-1-yl]carbonyl}benzonitrile (0.30 g, 0.91 mmol) in ethanol (2 mL) is added 50% aqueous hydroxylamine (0.24 mL, 3.64 mmol). The reaction is heated at 80° C. for 18 h. The mixture is concentrated under reduced pressure to give 0.36 g (94%) of 4-{[4-(1H-benzimidazol-2-yl)piperidin-1-yl]carbonyl}-N-hydroxybenzene carboximidamide. m/z=364 [M++H].

reactant | 4-{[4-(1H-benzimidazol-2-yl)piperidin-1-yl]carbonyl}benzonitrile | 0.91 mmol, 0.30 g | N1C(=NC2=C1C=CC=C2)C2CCN(CC2)C(=O)C2=CC=C(C#N)C=C2 | C20H18N4O
reactant | hydroxylamine | 3.64 mmol, 0.24 mL | NO | H3NO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-{[4-(1H-benzimidazol-2-yl)piperidin-1-yl]carbonyl}-N-hydroxybenzene carboximidamide | 0.36 g, 94% | N1C(=NC2=C1C=CC=C2)C2CCN(CC2)C(=O)C2=CC=C(C=C2)C(NO)=N | C20H21N5O2
